US05412137
To a mixture of 12.6 grams of mercuric acetate and 8.3 grams of 1,5-pentanediol in 100 ml of dimethylformamide is added 5.0 grams of 1-nonene. The mixture is stirred at room temperature for ten minutes and 40 ml of an aqueous NaOH solution (3 Molar) is added followed by 40 ml of an aqueous NaBH4 solution (0.5 Molar in 3 Molar NaOH). The solution is decanted from the mercuric salts and concentrated. The residue is partitioned between ethyl acetate and water and the organic layer is washed with brine, dried over sodium sulfate, filtered, and concentrated under vacuum to give a clear liquid. This liquid is flash chromatographed, initially with a 19 to 1 ratio of hexane to ethyl acetate and, subsequently, with a 9 to 1 ratio, to give 5-(2-nonyloxy)pentanol as a clear liquid.

reactant | 1,5-pentanediol | 8.3 grams | C(CCCCO)O | C5H12O2
reactant | 1-nonene | 5.0 grams | C=CCCCCCCC | C9H18
reactant | NaOH | 3 Molar, 40 ml | [OH-].[Na+]
reactant | NaBH4 | 0.5 Molar, 40 ml | [BH4-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-(2-nonyloxy)pentanol | CC(CCCCCCC)OCCCCCO | C14H30O2
